US06310070B1
1.36 g (4.09 mmol) of 7-benzyl-2-(2-methoxyphenyl) hypoxanthine prepared by the same method as in Example 15 was dissolved in 20 ml of acetic acid. After the addition of 3 ml of hydrobromic acid, the mixture was stirred for 35.5 hours at 100° C. After cooling, the produced crystals were separated by filtration and washed with distilled water and ethanol. The crude crystals were purified by suspension in hot ethanol to obtain 0.88 g of 7-benzyl-2-(2-hydroxyphenyl)hypoxanthine (yield 68%).

reactant | 7-benzyl-2-(2-methoxyphenyl) hypoxanthine | 4.09 mmol, 1.36 g | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)C1=C(C=CC=C1)OC | C19H16N4O2
reactant | hydrobromic acid | 3 ml | Br | BrH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 7-benzyl-2-(2-hydroxyphenyl)hypoxanthine | 0.88 g, yield 68% | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)C1=C(C=CC=C1)O | C18H14N4O2
